US04263207
3-(1H-Tetrazol-5-yl)-10,11-dihydro-11-oxodibenzo[b,f][1,4] thiazepine
Heat a mixture of 800 mg. of 3-cyano-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine, 293 mg. of sodium azide and 265 mg. of ammonium chloride in 25 ml. of dimethylformamide at 130°-135° C. for 6 hours. Dilute the mixture with water and excess sodium carbonate. Extract with ethyl acetate. Acidify the aqueous phase and separate the precipitate by filtration to obtain the title product.

reactant | 3-cyano-10,11-dihydro-11-oxodibenzo[b,f][1,4]thiazepine | C(#N)C1=CC2=C(C(NC3=C(S2)C=CC=C3)=O)C=C1 | C14H8N2OS
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-(1H-Tetrazol-5-yl)-10,11-dihydro-11-oxodibenzo[b,f][1,4] thiazepine | N1N=NN=C1C1=CC2=C(C(NC3=C(S2)C=CC=C3)=O)C=C1 | C14H9N5OS
